US07173045B2
Tryptamine (2-(1H-indol-3-yl)ethylamine, 321 mg, 2 mmol.) was dissolved in abs. 1,2-dichloroethane. After the addition of 4-dimethylamino-4-phenylcyclohexanecarbaldehyde (463 mg, 2 mmol.), the mixture was stirred for 1 h at RT. Sodium triacetoxyborohydride (660 mg, 3 mmol.) was then added, and stirring was carried out for 3 d at RT. For working up, 1,2-dichloroethane (10 ml), water (15 ml) and 2M HCl (3 ml) were added to the reaction mixture. After stirring vigorously for 15 min., the phases were separated and the aqueous phase (pH 3) was extracted again with 1,2-dichloroethane (10 ml). 5M NaOH was then added to the aqueous phase (pH 11), followed by extraction with EE (5×20 ml). The combined EE phases were dried, filtered and concentrated. The residue was the still impure diastereoisomeric mixture of the bases of the target product (690 mg, m.p. 56–64° C.), which was purified by flash chromatography on silica gel (70 g) and separated (eluant: 1200 ml of methanol/conc. ammonia solution 99.5:0.5). 220 mg (0.59 mmol.) of the non-polar diastereoisomer of (4-{[2-(1H-Indol-3-yl)ethylamino]methyl}-1-phenylcyclohexyl)dimethylamine (m.p. 78–83° C.) were obtained and were dissolved in 2-butanone; chlorotrimethylsilane (222 μl, 1.8 mmol.) was added at RT, and stirring was carried out for 2 h. The suspension was cooled for 1 h in an ice bath, and the solid was filtered off. The hygroscopic dihydrochloride was washed with cold ether and dried in vacuo. The dihydrochloride of the non-polar diastereoisomer of (4-{[2-(1H-Indol-3-yl)ethylamino]methyl}-1-phenylcyclohexyl)dimethylamine was thus obtained in a yield of 205 mg (white solid, m.p. 170–180° C. with decomposition, rearrangements at only 105° C.).

reactant | Tryptamine | 2 mmol, 321 mg | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 4-dimethylamino-4-phenylcyclohexanecarbaldehyde | 2 mmol, 463 mg | CN(C1(CCC(CC1)C=O)C1=CC=CC=C1)C | C15H21NO
reactant | Sodium triacetoxyborohydride | 3 mmol, 660 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | 2M, 3 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | (4-{[2-(1H-Indol-3-yl)ethylamino]methyl}-1-phenylcyclohexyl)dimethylamine | N1C=C(C2=CC=CC=C12)CCNCC1CCC(CC1)(C1=CC=CC=C1)N(C)C | C25H33N3
